US09193694B2
7-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (50 mg, 0.185 mmol) was dissolved in DMF (3 mL) and cooled down in a ice/water bath and treated with sodium hydride (60% dispersion) (17 mg, 0.41 mmol) portion wise. After 10 min a solution of 2-(chloromethyl)pyrimidine hydrochloride (37 mg, 0.22 mmol) in DMF (2 mL) was added and the reaction mixture was warmed up to room temperature and quenched with 6 mL of water after it was complete. The reaction mixture was extracted with EtOAc and water and the organic phase was dried, evaporated and purified by silica gel chromatography (95% DCM/MeOH) and then purified by reverse phase chromatography to afford 7-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one.

reactant | 7-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | 0.185 mmol, 50 mg | CN1C(C=C(C=C1)C=1C=CC2=C(C(NCCO2)=O)C1)=O | C15H14N2O3
reactant | sodium hydride | 0.41 mmol, 17 mg | [H-].[Na+]
reactant | 2-(chloromethyl)pyrimidine hydrochloride | 0.22 mmol, 37 mg | Cl.ClCC1=NC=CC=N1
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | CN1C(C=C(C=C1)C=1C=CC2=C(C(N(CCO2)CC2=NC=CC=N2)=O)C1)=O | C20H18N4O3
